US06610694B1
Production of N-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl]-2,2-dimethylglycine Ethyl Ester
1.25 g of 4-(diphenylmethoxy)-1-piperidinepropanamine and 1.20 g of N-(6-chloro[1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl)-2,2-dimethylglycine ethyl ester were dissolved in 20 ml of N,N-dimethylformamide; 1.33 ml of N-ethyldiisopropylamine was added, followed by stirring under heating at an external temperature of 60° C. for 7.5 hours. After cooling, cold aqueous sodium bicarbonate was added; the reaction mixture was extracted with ethyl acetate, washed with saturated saline, and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol-triethylamine (50:5:1). The desired fraction was collected and concentrated under reduced pressure; the precipitated crystal was recrystallized from ethanol-ethyl acetate fir (1:3), collected by filtration, and dried, to yield 1.17 g of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 1.25 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | N-(6-chloro[1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl)-2,2-dimethylglycine ethyl ester | 1.20 g | C(C)OC(C(NC(=O)C1=NN=C2N1N=C(C=C2)Cl)(C)C)=O | C12H14ClN5O3
reactant | N-ethyldiisopropylamine | 1.33 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl]-2,2-dimethylglycine Ethyl Ester | 1.17 g | C(C)OC(C(NC(=O)C1=NN=C2N1N=C(C=C2)NCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)(C)C)=O | C33H41N7O4
